US08754073B2
44.1 6-chloro-2-piperidin-4-yl-benzoxazole (V-7)
500 mg 2-amino-5-chlorophenol and 800 mg mono-tert-butyl piperidine-1,4-dicarboxylate are heated to 200° C. in 4 ml polyphosphoric acid for 4 h. After cooling the reaction mixture is combined with ice water and stirred for 30 min. The precipitate is suction filtered, washed with water and dried. 850 mg product are obtained as the phosphate.

reactant | 2-amino-5-chlorophenol | 500 mg | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | mono-tert-butyl piperidine-1,4-dicarboxylate | 800 mg | N1(CCC(CC1)C(=O)[O-])C(=O)OC(C)(C)C
product | 6-chloro-2-piperidin-4-yl-benzoxazole | 850 mg | ClC1=CC2=C(N=C(O2)C2CCNCC2)C=C1 | C12H13ClN2O
